US07838674B2
48.a: 4-(2-Morpholin-4-yl-ethoxy)-benzamidine
4-(2-Morpholin-4-yl-ethoxy)-benzonitrile (Maybridge CC 42116)(2.7 g; 11.64 mmol) in THF (10 ml) is combined with LiN(TMS)2 (30 mmol; 30 ml of a 1M solution in THF) and stirred for 30 minutes at 55° C., kept at room temperature for 30 minutes and cooled to 5° C., while 3N HCl (28 ml) is added slowly. After 10 minutes the reaction mixture is washed with TBME and the aqueous phase is adjusted to pH ˜11 with solid NaOH, saturated with solid K2CO3 and extracted with TBME/MeOH (˜10:1) several times. The combined organic phases are dried over Na2SO4, filtered and evaporated to yield the title compound as yellow crystals (2.7 g; 93%). 1H-NMR (400 MHz; DMSO-d6): 7.72 (d, 2H); 6.96 (d, 2H); 6.31 (bs, 3H); 4.13 (t, 2H); 3.59 (m, 4H); 2.71 t, 2H); 2.49 (m, 4H). MS (m/z) ES+: 250 (MH+).

reactant | 4-(2-Morpholin-4-yl-ethoxy)-benzonitrile | 11.64 mmol, 2.7 g | N1(CCOCC1)CCOC1=CC=C(C#N)C=C1 | C13H16N2O2
reactant | LiN(TMS)2 | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | HCl | 3N, 28 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(2-Morpholin-4-yl-ethoxy)-benzamidine | 2.7 g, 93% | N1(CCOCC1)CCOC1=CC=C(C(=N)N)C=C1 | C13H19N3O2
